US08871756B2
To a solution of methyl 2-hydroxy-4-methylbenzoate (109 g, 657.2 mmol) and 1,4-diazabicyclo[2.2.2]octane (147.4 g, 1314.4 mmol) in N,N-dimethylformamide (300 mL) was added a solution of N,N-dimethylcarbamothioyl chloride (97.5 g, 788.6 mmol) in N,N-dimethylformamide (100 mL) at room temperature. After being heated at 60° C. for 4 hours, the mixture was cooled and poured onto ice. The formed precipitate was collected by filtration, washed with water (300 mL×3) and dried in vacuo to afford 137 g of methyl 2-[(dimethylcarbamothioyl)oxy]-4-methylbenzoate as an off-white solid (yield was 82%).

reactant | methyl 2-hydroxy-4-methylbenzoate | 657.2 mmol, 109 g | OC1=C(C(=O)OC)C=CC(=C1)C | C9H10O3
reactant | 1,4-diazabicyclo[2.2.2]octane | 1314.4 mmol, 147.4 g | N12CCN(CC1)CC2 | C6H12N2
reactant | N,N-dimethylcarbamothioyl chloride | 788.6 mmol, 97.5 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 2-[(dimethylcarbamothioyl)oxy]-4-methylbenzoate | 137 g, yield was 82% | CN(C(=S)OC1=C(C(=O)OC)C=CC(=C1)C)C | C12H15NO3S
